### PR TITLE
[Merged by Bors] - feat(LinearAlgebra): commutative semirings satisfy strong rank condition

### PR DESCRIPTION
**Pull request by alreadydone**
Co-authored-by: Aristotle (Harmonic) <aristotle-harmonic@harmonic.fun>
Co-authored-by: Monica Omar <23701951+themathqueen@users.noreply.github.com>

Thanks to ChatGPT and Gemini for converting part of Yi-Jia Tan's paper into LaTeX, which served as solutions provided to Aristotle.

- [x] depends on: #40875

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/Nonsingular.lean [hunk 1]
```diff
@@ -0,0 +1,601 @@
...
+*Free sets and free subsemimodules in a semimodule*. As consequences, we show that
+commutative semirings satisfy the strong rank condition, and that the columns of a square matrix
+are linearly independent if and only if the matrix is nonsingular (over a commutative ring,
+a matrix is nonsingular if and only if its determinant is not a zero divisor).
+
+## Main definition
+
+* `Matrix.Nonsingular`: if `R` is a commutative semiring, a matrix `A` in `Mₙ(R)` is called
+  nonsingular if `a|A|⁺ + b|A|⁻ = b|A|⁻ + a|A|⁺` implies `a = b` for `a, b : R`.
+  `|A|⁺` and `|A|⁻` are `A.detp 1` and `A.detp (-1)` respectively in mathlib (`Matrix.detp`).
```
Comment (SnirBroshi) [inline Mathlib/LinearAlgebra/Matrix/Nonsingular.lean]:
```suggestion
  `|A|⁺` and `|A|⁻` are `A.detp 1` and `A.detp (-1)` respectively (`Matrix.detp`).
```

File: Mathlib/LinearAlgebra/Matrix/Nonsingular.lean [hunk 2]
```diff
@@ -0,0 +1,601 @@
...
+  are linearly independent, then `A` is nonsingular. Theorem 3.1(1) of [Tan2016].
+
+* `Matrix.nonsingular_of_linearIndependent_col`: if the columns of a square matrix are linearly
+  independent, then the matrix is nonsingular. Corollary 3.2(1) of [Tan2016].
+
+* `Matrix.linearIndependent_col_of_nonsingular`: if a matrix over a commutative semiring with
+  cancellative addition is nonsingular, then its columns are linearly independent.
+  Corollary 3.2(2) of [Tan2016].
+
+* `Matrix.instStrongRankConditionOfNontrivial`: a commutative semiring satisfies the strong rank
```
Comment (SnirBroshi) [inline Mathlib/LinearAlgebra/Matrix/Nonsingular.lean]: Since you're referencing the instance by name, I think it should be explicitly named rather than relying on the naming algorithm to be backwards compatible.

File: Mathlib/LinearAlgebra/Matrix/Nonsingular.lean [hunk 3]
```diff
@@ -0,0 +1,130 @@
...
+  let v (a b : R) : n →₀ R := ∑ j : m, .single (g j) (a * (Aj j).detp (-1) + b * (Aj j).detp 1) +
+    .single j₀ (a * D.detp 1 + b * D.detp (-1))
+  have veq := congr($(ind (a₁ := v a b) (a₂ := v b a) ?_) j₀)
+  · exact (nbal <| by simpa [DetpBalanced, v, h₀] using veq).elim
+  ext i
+  let Ai := A.submatrix (Option.rec i f) (Option.rec j₀ g)
+  have (s : ℤˣ) : Ai.detp s = ∑ j, detp (-s) (Aj j) * A.col (g j) i + detp s D * A.col j₀ i := by
+    simp_rw [mul_comm]; rw [detp_option_expand_row_none, add_comm]
+    congr!; ext; simp only [submatrix_apply, Ai, Aj]
+    congr; simp_rw [Function.update]; split_ifs <;> simp
```
Comment (wwylele) [inline Mathlib/LinearAlgebra/Matrix/Nonsingular.lean]: Is it a recommended style to put multiple lines of tactic together using `;`?

**Review by wwylele — APPROVED** [review]
I read through it and can roughly understand what is going on. I don't fine place to make it better, so it looks good to me

File: Mathlib/LinearAlgebra/Matrix/Nonsingular.lean (hunk 3 above)
Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/Nonsingular.lean]: I don't think so. I think it's fine if the proof ends in `tactic; tactic; tactic`. But I don't think this is nice. It isn't easy to read

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 4]
```diff
@@ -59,6 +64,75 @@ lemma detp_neg_one_diagonal (d : n → R) : detp (-1) (diagonal d) = 0 := by
...
+  rw [detp, ofSign, univ_unique]
+  convert sum_empty
+  simp +decide
+
+@[simp] lemma detp_submatrix_equiv_equiv (f g : m ≃ n) :
+    (A.submatrix f g).detp s = A.detp (s * sign (f.symm.trans g)) :=
+  sum_equiv (equivCongr f g) (by simp) fun _ _ ↦ prod_equiv f (by simp) fun _ _ ↦ by simp
+
+lemma detp_submatrix_equiv (e : m ≃ n) : (A.submatrix e e).detp s = A.detp s := by
+  simp
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean:84]: Can you move this to a separate PR? Probably can get merged quickly

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 5]
```diff
@@ -67,6 +141,42 @@ lemma adjp_apply (i j : n) :
     adjp s A i j = ∑ σ ∈ (ofSign s).filter (· j = i), ∏ k ∈ {j}ᶜ, A k (σ k) :=
   rfl
 
+lemma adjp_transpose : A.transpose.adjp s = (A.adjp s).transpose := by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]: can you also move the `adjp` stuff to another PR?

File: Mathlib/LinearAlgebra/Matrix/Nonsingular.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Matrix/Nonsingular.lean]: I think there's a rule that if a trivial proof fits in one line, then that's the way to go.
Personally I'd also like to group tactics with similar functionalities in the same line, but here I'm probably doing too much. Will split them up a bit in the next commit.

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean:84]: #40875

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean (hunk 5 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]: #40875

**Comment by tb65536** [comment]
This needs to be bumped

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 6]
```diff
@@ -79,8 +79,24 @@ lemma detp_neg_one_one : detp (-1) (1 : Matrix n n R) = 0 := by
...
+lemma DetpBalanced.of_eq {a b : R} (eq : A.detp 1 = A.detp (-1)) : A.DetpBalanced a b := by
+  rw [DetpBalanced, eq, add_comm]
+
+/-- A square matrix `A` over a commutative semiring `R` is called nonsingular if it is
+only determinant balanced with respect to equal elements. -/
+def Nonsingular : Prop := ∀ a b : R, A.DetpBalanced a b → a = b
+
 variable {A}
 
+lemma nonsingular_transpose_iff : Aᵀ.Nonsingular ↔ A.Nonsingular := by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]:
```suggestion
@[simp] lemma nonsingular_transpose_iff : Aᵀ.Nonsingular ↔ A.Nonsingular := by
```

File: Mathlib/LinearAlgebra/Matrix/Nonsingular.lean [hunk 7]
```diff
@@ -0,0 +1,131 @@
...
+    iterate 2 rw [Finset.sum_congr rfl fun i h ↦ congr_arg (· * _) <|
+      adjp_mul_apply_ne _ _ _ (Finset.mem_filter.mp h).2] at hp
+    grind
+
+public theorem linearIndependent_col_iff [IsCancelAdd R] :
+    LinearIndependent R A.col ↔ A.Nonsingular :=
+  ⟨.of_linearIndependent_col, (·.linearIndependent_col)⟩
+
+omit [DecidableEq n] [Fintype n] in
+theorem linearIndependent_col_iff_row [Finite n] [IsCancelAdd R] :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Nonsingular.lean]: why isn't this also public?

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 8]
```diff
@@ -79,8 +79,24 @@ lemma detp_neg_one_one : detp (-1) (1 : Matrix n n R) = 0 := by
 lemma detp_submatrix_equiv_self (e : m ≃ n) : (A.submatrix e e).detp s = A.detp s := by
   simp
 
+/-- A square matrix `A` over a commutative semiring `R` is "determinant balanced"
+with respect to `a b : R` if `a|A|⁺ + b|A|⁻ = b|A|⁺ + a|A|⁻`. -/
+def DetpBalanced (a b : R) : Prop :=
+  a * A.detp 1 + b * A.detp (-1) = b * A.detp 1 + a * A.detp (-1)
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean:96]: is it worth having this use `r` and `q` instead of `1` and `-1`?

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 9]
```diff
@@ -79,8 +79,24 @@ lemma detp_neg_one_one : detp (-1) (1 : Matrix n n R) = 0 := by
...
+
+variable {A} in
+lemma DetpBalanced.of_eq {a b : R} (eq : A.detp 1 = A.detp (-1)) : A.DetpBalanced a b := by
+  rw [DetpBalanced, eq, add_comm]
+
+/-- A square matrix `A` over a commutative semiring `R` is called nonsingular if it is
+only determinant balanced with respect to equal elements. -/
+def Nonsingular : Prop := ∀ a b : R, A.DetpBalanced a b → a = b
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]: can you add some easy API like `nonsingular_one`

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 10]
```diff
@@ -79,8 +79,24 @@ lemma detp_neg_one_one : detp (-1) (1 : Matrix n n R) = 0 := by
 lemma detp_submatrix_equiv_self (e : m ≃ n) : (A.submatrix e e).detp s = A.detp s := by
   simp
 
+/-- A square matrix `A` over a commutative semiring `R` is "determinant balanced"
+with respect to `a b : R` if `a|A|⁺ + b|A|⁻ = b|A|⁺ + a|A|⁻`. -/
+def DetpBalanced (a b : R) : Prop :=
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]: can you also add
```lean
lemma DetpBalanced.symm {a b : R} (hab : A.DetpBalanced a b) : A.DetpBalanced b a :=
```

Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]: i guess also `detpBalanced_comm`, `.refl` (i.e., `A.DetpBalanced a a`), and easy API like that

File: Mathlib/LinearAlgebra/Matrix/Nonsingular.lean (hunk 7 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Matrix/Nonsingular.lean]: My negligence, thanks!

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean (hunk 8 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean:96]: You want me to add
```
variable {A} in
lemma DetpBalanced.mul_add_mul_eq {a b : R} (h : A.DetpBalanced a b) (s t : ℤˣ) :
    a * A.detp s + b * A.detp t = b * A.detp s + a * A.detp t := by
  obtain rfl | rfl := Int.units_eq_one_or s <;> obtain rfl | rfl := Int.units_eq_one_or t
  · rw [add_comm]
  · rw [h]
  · rw [add_comm, ← h, add_comm]
  · rw [add_comm]
```
?

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean (hunk 10 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]: Added what you listed

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean (hunk 9 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]: It's a consequence of `Nonsingular.of_linearIndependent_col`, from which one could also prove `IsLeft/RightRegular.nonsingular`. I also added `Nonsingular.of_isEmpty`. Anything else comes to mind?

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 11]
```diff
@@ -79,14 +79,52 @@ lemma detp_neg_one_one : detp (-1) (1 : Matrix n n R) = 0 := by
...
+  a * A.detp 1 + b * A.detp (-1) = b * A.detp 1 + a * A.detp (-1)
+
+lemma DetpBalanced.refl (a : R) : A.DetpBalanced a a := by rw [DetpBalanced, add_comm]
+
 variable {A}
 
+lemma DetpBalanced.of_eq {a b : R} (eq : A.detp 1 = A.detp (-1)) : A.DetpBalanced a b := by
+  rw [DetpBalanced, eq, add_comm]
+
+lemma DetpBalanced.symm {a b : R} : A.DetpBalanced a b → A.DetpBalanced b a := Eq.symm
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]: Since you've added `.refl` and `.symm`, might as well also add `.trans` (but I think you may need to strengthen `R` a bit?)

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 12]
```diff
@@ -79,14 +79,52 @@ lemma detp_neg_one_one : detp (-1) (1 : Matrix n n R) = 0 := by
 lemma detp_submatrix_equiv_self (e : m ≃ n) : (A.submatrix e e).detp s = A.detp s := by
   simp
 
+/-- A square matrix `A` over a commutative semiring `R` is "determinant balanced"
+with respect to `a b : R` if `a|A|⁺ + b|A|⁻ = b|A|⁺ + a|A|⁻`. -/
+def DetpBalanced (a b : R) : Prop :=
+  a * A.detp 1 + b * A.detp (-1) = b * A.detp 1 + a * A.detp (-1)
+
+lemma DetpBalanced.refl (a : R) : A.DetpBalanced a a := by rw [DetpBalanced, add_comm]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]: pretty sure this should work?
```suggestion
lemma DetpBalanced.refl (a : R) : A.DetpBalanced a a := rfl
```

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean (hunk 8 above)
Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean:96]: Yup, thanks!
Does grind not work here though? Something like `grind [Int.units_eq_one_or s, Int.units_eq_one_or t, DetpBalanced]`?

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 13]
```diff
@@ -79,14 +79,52 @@ lemma detp_neg_one_one : detp (-1) (1 : Matrix n n R) = 0 := by
...
+
+@[simp] lemma nonsingular_one : (1 : Matrix n n R).Nonsingular :=
+  fun a b h ↦ by simpa [DetpBalanced] using h
+
+variable (A) in
+@[simp] lemma Nonsingular.of_isEmpty [IsEmpty n] : A.Nonsingular := by
+  simp [Nonsingular, DetpBalanced]
+
+@[simp] lemma nonsingular_transpose_iff : Aᵀ.Nonsingular ↔ A.Nonsingular := by
+  simp_rw [Nonsingular, DetpBalanced, detp_transpose]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]: maybe also add `DetpBalanced.transpose` and `transpose_iff`?

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean (hunk 8 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean:96]: I don't think `grind` take arguments like that:
```
redundant parameter `h`, `grind` uses local hypotheses automatically
```
I think you can do `(add simp ...)` with `aesop` but couldn't make it work.

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean (hunk 13 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]: What statement do you mean by `transpose_iff`? Do you want `.of_transpose`?

Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]: `A.transpose.DetpBalanced a b \iff A.DetpBalanced a b`

Comment (alreadydone) [reply Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]: Oh I missed the `DetpBalanced`

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 14]
```diff
@@ -98,6 +149,26 @@ lemma detp_eq_of_row_eq_zero {p : n} (hrow : A.row p = 0) : A.detp s = 0 :=
 lemma detp_eq_of_col_eq_zero {p : n} (hcol : A.col p = 0) : A.detp s = 0 := by
   simpa using detp_eq_of_row_eq_zero (A := Aᵀ) s hcol
 
+/-- If `A` is determinant balanced with respect to `a` and `b`, any submatrix of
+the same or bigger size (possibly with repeated rows or columns) is also. -/
+lemma DetpBalanced.submatrix_of_card_le {a b : R} (h : A.DetpBalanced a b)
+    (le : Fintype.card n ≤ Fintype.card m) (f g : m → n) :
+    (A.submatrix f g).DetpBalanced a b := by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]: maybe also add

```lean
@[simp] lemma detpBalanced_submatrix_equiv_iff {a b : R} {f : m ≃ n} :
    (A.submatrix f f).DetpBalanced a b ↔ A.DetpBalanced a b := by
  simp [DetpBalanced]

alias ⟨_, DetpBalanced.submatrix_equiv⟩ := detpBalanced_submatrix_equiv_iff
```

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 15]
```diff
@@ -98,6 +149,26 @@ lemma detp_eq_of_row_eq_zero {p : n} (hrow : A.row p = 0) : A.detp s = 0 :=
 lemma detp_eq_of_col_eq_zero {p : n} (hcol : A.col p = 0) : A.detp s = 0 := by
   simpa using detp_eq_of_row_eq_zero (A := Aᵀ) s hcol
 
+/-- If `A` is determinant balanced with respect to `a` and `b`, any submatrix of
+the same or bigger size (possibly with repeated rows or columns) is also. -/
+lemma DetpBalanced.submatrix_of_card_le {a b : R} (h : A.DetpBalanced a b)
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]: oh, also,
```lean
@[simp] lemma nonsingular_submatrix_equiv_iff {f : m ≃ n} :
    (A.submatrix f f).Nonsingular ↔ A.Nonsingular := by simp [Nonsingular]

alias ⟨_, Nonsingular.submatrix_equiv⟩ := nonsingular_submatrix_equiv_iff
```

Comment (alreadydone) [reply Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]: Added generalized version with two Equivs, and added you as a coauthor.

Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]: No need for that lol 😅. I'm just suggesting things :)

Comment (alreadydone) [reply Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]: It's deserved, as you made substantial improvement to the API :)

**Comment by themathqueen** [comment]
I added two small lemmas, check them out :)

File: Mathlib/LinearAlgebra/Matrix/Nonsingular.lean [hunk 16]
```diff
@@ -0,0 +1,165 @@
...
+
+lemma detpBalanced_iff_sub_mul_det_eq_zero {R : Type*} [CommRing R] {A : Matrix n n R} {a b : R} :
+    A.DetpBalanced a b ↔ (a - b) * A.det = 0 := by
+  grind [DetpBalanced, det_eq_detp_sub_detp]
+
+lemma nonsingular_iff_det_mem_nonZeroDivisors {R : Type*} [CommRing R]
+    {A : Matrix n n R} : A.Nonsingular ↔ A.det ∈ nonZeroDivisors R := by
+  simp_rw [Nonsingular, detpBalanced_iff_sub_mul_det_eq_zero, mem_nonZeroDivisors_iff_right]
+  exact ⟨fun h x eq ↦ h x 0 (by simpa), fun h a b eq ↦ sub_eq_zero.mp <| h _ (by simpa)⟩
+
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Nonsingular.lean:51]: more API you could add:

```lean
lemma nonsingular_iff_det_ne_zero {R : Type*} [CommRing R] [NoZeroDivisors R] [Nontrivial R]
    {A : Matrix n n R} : A.Nonsingular ↔ A.det ≠ 0 := by
  rw [nonsingular_iff_det_mem_nonZeroDivisors, mem_nonZeroDivisors_iff_ne_zero]

lemma nonsingular_iff_isUnit {K : Type*} [Field K] {A : Matrix n n K} : A.Nonsingular ↔ IsUnit A := by
  rw [isUnit_iff_isUnit_det, nonsingular_iff_det_ne_zero, isUnit_iff_ne_zero]
```

Second one would go in the `NonsingularInverse` file. Maybe we don't need both though, not sure.

Other stuff could be stuff like `(A) [Invertible A] : A.Nonsingular` since we have a mixture of `Invertible` and `IsUnit` stuff for matrices.

File: Mathlib/LinearAlgebra/Matrix/Nonsingular.lean [hunk 17]
```diff
@@ -0,0 +1,165 @@
...
+variable {R m n : Type*} [CommSemiring R] [Fintype m] [Fintype n] [DecidableEq m] [DecidableEq n]
+variable {A : Matrix n n R}
+
+namespace Matrix
+
+public section
+
+lemma detpBalanced_iff_sub_mul_det_eq_zero {R : Type*} [CommRing R] {A : Matrix n n R} {a b : R} :
+    A.DetpBalanced a b ↔ (a - b) * A.det = 0 := by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Nonsingular.lean]: I think this could go in the docstring of the definition, i.e., "in commutative rings, this means `(a - b) * A.det = 0`."

File: Mathlib/LinearAlgebra/Matrix/Nonsingular.lean [hunk 18]
```diff
@@ -0,0 +1,165 @@
...
+theorem linearIndependent_row_iff : LinearIndependent R A.row ↔ A.Nonsingular :=
+  ⟨.of_linearIndependent_row, (·.linearIndependent_row)⟩
+
+theorem isLeftRegular_iff_nonsingular : IsLeftRegular A ↔ A.Nonsingular := by
+  rw [isLeftRegular_iff_mulVec_injective, mulVec_injective_iff, linearIndependent_col_iff]
+
+theorem isRightRegular_iff_nonsingular : IsRightRegular A ↔ A.Nonsingular := by
+  rw [isRightRegular_iff_vecMul_injective, vecMul_injective_iff, linearIndependent_row_iff]
+
+lemma Nonsingular.mul {B : Matrix n n R} (hA : A.Nonsingular) (hB : B.Nonsingular) :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Nonsingular.lean:117]: for commutative rings, this can be an iff:

```lean
lemma nonsingular_mul_iff {R} [CommRing R] {A B : Matrix n n R} :
    (A * B).Nonsingular ↔ A.Nonsingular ∧ B.Nonsingular := by
  simp [nonsingular_iff_det_mem_nonZeroDivisors, mul_mem_nonZeroDivisors]
```

File: Mathlib/LinearAlgebra/Matrix/Nonsingular.lean [hunk 19]
```diff
@@ -0,0 +1,165 @@
...
+    simp_rw [mul_comm]; rw [detp_option_expand_row_none, add_comm]
+    congr!; ext
+    simp only [submatrix_apply, Ai, Aj, Function.update]
+    split_ifs <;> simp
+  have (a b : R) : (v a b).linearCombination R A.col i = a * Ai.detp 1 + b * Ai.detp (-1) := by
+    simp_rw [v, map_add, map_sum, Finsupp.linearCombination_single, Pi.add_apply, Finset.sum_apply,
+      add_smul, Pi.add_apply, Finset.sum_add_distrib, Pi.smul_apply, smul_eq_mul, mul_assoc,
+      ← Finset.mul_sum, add_add_add_comm, ← mul_add, this, neg_neg]
+  rw [this, this]
+  exact hr (Option m) (by rw [Fintype.card_option, eq]; exact Nat.succ_pred h0) ..
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Nonsingular.lean]: small golf

```suggestion
  let P (r : ℕ) : Prop := ∀ f g : Fin r → n, (A.submatrix f g).DetpBalanced a b
  suffices h : P 0 by simpa [DetpBalanced] using h Fin.elim0 Fin.elim0
  refine Nat.decreasingInduction' (n := Fintype.card n) (fun r _ _ ih f g ↦ ?_) (Nat.zero_le _)
    fun f g ↦ bal.submatrix_of_card_le (Fintype.card_fin _).ge f g
  by_cases hg : g.Surjective
  · exact bal.submatrix_of_card_le (Fintype.card_le_of_surjective g hg) f g
  obtain ⟨j₀, h₀⟩ := by simpa [Function.Surjective] using hg
  let D := A.submatrix f g
  let Aj (j : Fin r) := A.submatrix f (Function.update g j j₀)
  let v (a b : R) : n →₀ R := ∑ j, .single (g j) (a * (Aj j).detp (-1) + b * (Aj j).detp 1) +
    .single j₀ (a * D.detp 1 + b * D.detp (-1))
  suffices h : v a b = v b a by simpa [DetpBalanced, v, h₀] using congr($h j₀)
  refine ind (funext fun i ↦ ?_)
  let Ai := A.submatrix (Option.rec i f) (Option.rec j₀ g)
  have (s : ℤˣ) : Ai.detp s = ∑ j, (Aj j).detp (-s) * A.col (g j) i + D.detp s * A.col j₀ i := by
    simp_rw [mul_comm]; rw [detp_option_expand_row_none, add_comm]
    congr!; aesop (add simp Function.update)
  have (a b : R) : (v a b).linearCombination R A.col i = a * Ai.detp 1 + b * Ai.detp (-1) := by
    simp [v, Finset.sum_add_distrib, mul_assoc, ← Finset.mul_sum, add_add_add_comm, mul_add, this]
  simpa [this, DetpBalanced, ← submatrix_submatrix] using
    ih (Option.rec i f ∘ finSuccEquiv r) (Option.rec j₀ g ∘ finSuccEquiv r)
```

File: Mathlib/LinearAlgebra/Matrix/Nonsingular.lean [hunk 20]
```diff
@@ -0,0 +1,165 @@
...
+
+theorem Nonsingular.of_linearIndependent_row (ind : LinearIndependent R A.row) : A.Nonsingular := by
+  rw [← nonsingular_transpose_iff]; exact .of_linearIndependent_col ind
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Nonsingular.lean]: not much better, but
```suggestion
  simpa using Nonsingular.of_linearIndependent_col (A := Aᵀ) ind
```

File: Mathlib/LinearAlgebra/Matrix/Nonsingular.lean [hunk 21]
```diff
@@ -0,0 +1,165 @@
...
+columns are linearly independent. Generalizes `Matrix.linearIndependent_cols_of_det_ne_zero`. -/
+theorem Nonsingular.linearIndependent_col (hA : A.Nonsingular) : LinearIndependent R A.col :=
+  mulVec_injective_iff.mp fun x y eq ↦ funext fun k ↦ hA _ _ <| show _ = _ by
+    have hp := congr((A.adjp 1 *ᵥ $eq) k)
+    have hm := congr((A.adjp (-1) *ᵥ $eq) k)
+    simp_rw [mulVec_mulVec, mulVec, dotProduct, ← Finset.sum_erase_add _ _ (Finset.mem_univ k),
+      ← Finset.filter_ne, adjp_mul_apply_eq] at hp hm
+    iterate 2 rw [Finset.sum_congr rfl fun i h ↦ congr_arg (· * _) <|
+      adjp_mul_apply_ne _ _ _ (Finset.mem_filter.mp h).2] at hp
+    grind
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Nonsingular.lean]: basically same number of lines, but less calls to specific `Finset.*` lemmas, so up to you
```suggestion
    have h v : ((A.adjp 1 * A + A.detp (-1) • 1) *ᵥ v) k =
        ((A.adjp (-1) * A + A.detp 1 • 1) *ᵥ v) k := by
      congr 1; ext k i
      obtain (h | h) := eq_or_ne k i <;> simp [adjp_mul_apply_eq, add_comm, adjp_mul_apply_ne, h]
    simp [add_mulVec, smul_mulVec, ← mulVec_mulVec] at h; grind
```

File: Mathlib/LinearAlgebra/Matrix/Nonsingular.lean [hunk 22]
```diff
@@ -0,0 +1,165 @@
...
+  classical rw [isLeftRegular_iff_nonsingular, isRightRegular_iff_nonsingular]
+
+omit [DecidableEq n] [Fintype n] in
+/-- https://mathoverflow.net/questions/511862/transpose-symmetry-of-injectivity-of-linear-maps-over-semirings
+asks whether this is still true without `IsCancelAdd R`. -/
+theorem linearIndependent_col_iff_row [Finite n] :
+    LinearIndependent R A.col ↔ LinearIndependent R A.row := by
+  have := Fintype.ofFinite
+  classical rw [linearIndependent_col_iff, ← nonsingular_transpose_iff, ← linearIndependent_col_iff]
+  rfl
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Nonsingular.lean]:
```suggestion
  classical rw [linearIndependent_col_iff, linearIndependent_row_iff]
```

File: Mathlib/LinearAlgebra/Matrix/Nonsingular.lean [hunk 23]
```diff
@@ -0,0 +1,165 @@
...
+end Matrix
+
+open Matrix
+
+/-- A nontrivial commutative semiring satisfies the strong rank condition. -/
+instance (priority := 100) CommSemiring.strongRankCondition_of_nontrivial [Nontrivial R] :
+    StrongRankCondition R where
+  le_of_fin_injective {n m} f hf := by
+    let g : (Fin m → R) →ₗ[R] (Fin n → R) :=
+      ⟨⟨fun x i ↦ if h : i < m then x ⟨i, h⟩ else 0, by aesop⟩, by aesop⟩
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Nonsingular.lean]:
```suggestion
    let g : (Fin m → R) →ₗ[R] (Fin n → R) := .pi fun i ↦ if h : i < m then .proj ⟨i, h⟩ else 0
```

File: Mathlib/LinearAlgebra/Matrix/Nonsingular.lean [hunk 24]
```diff
@@ -0,0 +1,165 @@
...
+    by_contra! hnm
+    have hg : Function.Injective g := fun x y eq ↦ funext fun i ↦ by
+      simpa [g] using congr($eq ⟨i, i.prop.trans hnm⟩)
+    let A := toLin'.symm (g ∘ₗ f)
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Nonsingular.lean]:
```suggestion
    let A := (g ∘ₗ f).toMatrix'
```

**Review by themathqueen — COMMENTED** [review]
I think this is almost ready

File: Mathlib/LinearAlgebra/Matrix/Nonsingular.lean (hunk 18 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Matrix/Nonsingular.lean:117]: I can prove it under `IsCancelAdd R` :)
In fact every cancellative semiring embeds into a ring, and lots of facts can be proven that way, but a more direct approach is often possible.

File: Mathlib/LinearAlgebra/Matrix/Nonsingular.lean (hunk 19 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Matrix/Nonsingular.lean]: Thanks!

File: Mathlib/LinearAlgebra/Matrix/Nonsingular.lean (hunk 16 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Matrix/Nonsingular.lean:51]: I added the first one, replacing [NoZeroDivisors R] [Nontrivial R] with [IsDomain R] since it's shorter and equivalent for a ring R.

**Comment by themathqueen** [comment]
@alreadydone, I added a bit more API, please review and let me know if you're happy with this. You can remove whatever you think is unnecessary.

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 25]
```diff
@@ -80,6 +82,12 @@ lemma detp_neg_one_one : detp (-1) (1 : Matrix n n R) = 0 := by
 lemma detp_submatrix_equiv_self (e : m ≃ n) : (A.submatrix e e).detp s = A.detp s := by
   simp
 
+lemma detp_smul (c : R) : (c • A).detp s = c ^ Fintype.card n * A.detp s := by
+  simp [detp, Finset.mul_sum, Finset.prod_mul_distrib]
+
+lemma detp_map {S : Type*} [CommSemiring S] (f : R →+* S) :
+    (A.map f).detp s = f (A.detp s) := by simp [detp]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean:90]: these can be simp, but not sure

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 26]
```diff
@@ -126,11 +134,26 @@ lemma DetpBalanced.submatrix_equiv (e₁ e₂ : m ≃ n) (h : A.DetpBalanced a b
   mp h := by simpa using h.submatrix_equiv e₁.symm e₂.symm
   mpr := (·.submatrix_equiv ..)
 
+lemma DetpBalanced.scalar_mul (h : A.DetpBalanced a b) (c : R) :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]: this is a bad name, but can't think of a better name

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 27]
```diff
@@ -126,11 +134,26 @@ lemma DetpBalanced.submatrix_equiv (e₁ e₂ : m ≃ n) (h : A.DetpBalanced a b
...
 variable (A) in
 /-- A square matrix `A` over a commutative semiring `R` is called nonsingular if it is
 only determinant balanced with respect to equal elements. -/
 def Nonsingular : Prop := ∀ a b : R, A.DetpBalanced a b → a = b
 
+lemma Nonsingular.eq_of_detpBalanced (hA : A.Nonsingular) (hAd : A.DetpBalanced a b) :
+    a = b := hA a b hAd
+
+lemma DetpBalanced.eq_of_nonsingular (hA : A.DetpBalanced a b) (hAn : A.Nonsingular) :
+    a = b := hAn.eq_of_detpBalanced hA
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]: added both for discoverability

**Comment by themathqueen** [comment]
Please also merge master. I'm happy with this I think, so if you're happy too, I'll put it on the maintainer queue :)

**Comment by themathqueen** [comment]
Actually, I think it would be really nice if we add some lemmas connecting invertibility and nonsingularity.

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 28]
```diff
@@ -79,14 +82,101 @@ lemma detp_neg_one_one : detp (-1) (1 : Matrix n n R) = 0 := by
 lemma detp_submatrix_equiv_self (e : m ≃ n) : (A.submatrix e e).detp s = A.detp s := by
   simp
 
-variable {A}
+lemma detp_smul (c : R) : (c • A).detp s = c ^ Fintype.card n * A.detp s := by
+  simp [detp, Finset.mul_sum, Finset.prod_mul_distrib]
+
+lemma detp_map {S : Type*} [CommSemiring S] (f : R →+* S) :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean:89]: Oh I forgot to add `DetpBalanced.map`, `detpBalanced_map_iff`, `Nonsingular.map`, and `nonsingular_map_iff`

and maybe use `FunLike`?

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 29]
```diff
@@ -98,6 +188,23 @@ lemma detp_eq_of_row_eq_zero {p : n} (hrow : A.row p = 0) : A.detp s = 0 :=
 lemma detp_eq_of_col_eq_zero {p : n} (hcol : A.col p = 0) : A.detp s = 0 := by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean:188]: you could add `DetpBalanced` corollaries for these (i.e., `DetpBalanced.of_row_eq`, `.of_col_eq`, `.of_row_eq_zero`, `.of_col_eq_zero`)
maybe

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean (hunk 26 above)
Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]: I'll remove this because I don't like the name. We can add it at a later time.

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean (hunk 28 above)
Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean:89]: You/I/someone-else can add these in a later PR. No need to do everything here, I think.

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean (hunk 29 above)
Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean:188]: Same here. Let's add these in a later PR.

File: Mathlib/LinearAlgebra/Matrix/Notation.lean
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Notation.lean:1]: I'll split this off so that it doesn't sneak into a PR

splice-bot

File: Mathlib/LinearAlgebra/Matrix/Notation.lean [hunk 30]
```diff
@@ -401,7 +401,7 @@ section Submatrix
 
 @[simp]
 theorem submatrix_empty (A : Matrix m' n' α) (row : Fin 0 → m') (col : o' → n') :
-    submatrix A row col = ![] :=
+    submatrix A row col = of ![] :=
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/Matrix/Notation.lean:404]: I think the notation for matrices is `!![]`, see 10.4.1 of *Mathematics in Lean*.

Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/Notation.lean:404]: Right, but how do you write `of ![] : Matrix (Fin 0) o' α`, as a `!![]`?

**Review by themathqueen — COMMENTED** [review]
Let's get this in Mathlib!
There's still more API I would like to see, but in future PRs, this PR is already big enough.
We can also probably start removing `[StrongRankCondition R]` in a lot of lemmas after this!

Thanks!

maintainer merge

(note that I was only listed as a co-author during review for improving API)

**Comment by ocfnash** [comment]
Thanks!

bors merge

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 31]
```diff
@@ -80,14 +83,100 @@ lemma detp_neg_one_one : detp (-1) (1 : Matrix n n R) = 0 := by
...
-variable {A}
+lemma detp_smul (c : R) : (c • A).detp s = c ^ Fintype.card n * A.detp s := by
+  simp [detp, Finset.mul_sum, Finset.prod_mul_distrib]
+
+lemma detp_map {S : Type*} [CommSemiring S] (f : R →+* S) :
+    (A.map f).detp s = f (A.detp s) := by simp [detp]
+
+/-- A square matrix `A` over a commutative semiring `R` is "determinant balanced"
+with respect to `a b : R` if `a|A|⁺ + b|A|⁻ = b|A|⁺ + a|A|⁻`. Over a commutative ring,
+this is equivalent to `(a - b)|A| = 0`, see `Matrix.IsDetpBalanced_iff_sub_mul_det_eq_zero`. -/
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]: typo (I can't `bors cancel`, so hopefully you'll see this before it merges Oliver!)
```suggestion
this is equivalent to `(a - b)|A| = 0`, see `Matrix.isDetpBalanced_iff_sub_mul_det_eq_zero`. -/
```

Comment (tb65536) [reply Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]: You could push a commit (or just open a followup PR)

**Comment by adomani** [comment]
bors merge

File: Mathlib/LinearAlgebra/Matrix/Nonsingular.lean [hunk 32]
```diff
@@ -0,0 +1,163 @@
...
+  classical rw [linearIndependent_col_iff, linearIndependent_row_iff]
+
+end
+
+end Matrix
+
+open Matrix
+
+/-- A nontrivial commutative semiring satisfies the strong rank condition. -/
+instance (priority := 100) CommSemiring.strongRankCondition_of_nontrivial [Nontrivial R] :
```
Comment (wwylele) [inline Mathlib/LinearAlgebra/Matrix/Nonsingular.lean:151]: This was accidentally put out side of public section (because `public section` was declared in the `Matrix` namespace, which was ended above)

Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/Nonsingular.lean:151]: Oh! Good catch! Can you please open a PR to fix it?

Comment (wwylele) [reply Mathlib/LinearAlgebra/Matrix/Nonsingular.lean:151]: Here it is #42212
